US05378712
416 mg of butyl (S)-[3-[2-[4-(aminoiminomethyl)benzoylamino]propionylamino]propoxy]acetate are stirred at 20° C. in 8.3 ml of 25 percent hydrochloric acid. The solution is evaporated and the residue is evaporated with water. From THF there are obtained 211 mg of (S)-[3-[2-[4-(aminoimino-methyl)benzoylamino]propionylamino]propoxy]acetic acid hydrochloride as the hydrate (1:1), m.p. 89°-90° C., [α]D20 =+23.4° (c=0.5 in methanol).

reactant | butyl (S)-[3-[2-[4-(aminoiminomethyl)benzoylamino]propionylamino]propoxy]acetate | 416 mg | NN=CC1=CC=C(C(=O)N[C@H](C(=O)NCCCOCC(=O)OCCCC)C)C=C1 | C20H30N4O5
reactant | hydrochloric acid | 8.3 ml | Cl | ClH
product | (S)-[3-[2-[4-(aminoimino-methyl)benzoylamino]propionylamino]propoxy]acetic acid hydrochloride | 211 mg | Cl.NN=CC1=CC=C(C(=O)N[C@H](C(=O)NCCCOCC(=O)O)C)C=C1 | InChI=1S/C16H22N4O5.ClH/c1-11(15(23)18-7-2-8-25-10-14(21)22)20-16(24)13-5-3-12(4-6-13)9-19-17;/h3-6,9,11H,2,7-8,10,17H2,1H3,(H,18,23)(H,20,24)(H,21,22);1H/t11-;/m0./s1
